US06878722B2
Step 81a: preparation of 1-ethoxylcarbonyl-cyclopropanyl chloroformate
Step 81) A THF solution (50 mL) of 1-hydroxy-cyclopropanecarboxylic acid ethyl ester (5 g, 38.4 mmol) and pyridine (3.3 mL, 41 mmol) was added dropwise a phosgen/toleune solution (25 mL, 47.5 mmol) at 0° C. in 5-10 min. the reaction mixture was allowed slowly warm up overnite. The solid was filtered off and the filtration was concentrated in vacuo. The residue was dissolved in hexane, refiltered, and concentrated in vacuo to afford.7.4 g (100%) the product. The product was dissolved in CH2Cl2 (100 mL) as a stack solution: 1H NMR (300 MHz, CHLOROFORM-D) □ ppm 1.25 (t, J=7.14 Hz, 3H), 1.37 (m, 2H), 1.57 (m, 2H), 4.21 (q, J=6.95 Hz, 2H); (ppm) 13.97, 15.75, 62.07, 62.13, 150.54, 168.71.

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | 1-hydroxy-cyclopropanecarboxylic acid ethyl ester | 38.4 mmol, 5 g | C(C)OC(=O)C1(CC1)O | C6H10O3
reactant | pyridine | 41 mmol, 3.3 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgen | 47.5 mmol, 25 mL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-ethoxylcarbonyl-cyclopropanyl chloroformate | ClC(=O)OC1(CC1)C(=O)OCC | C7H9ClO4
